* \\vmware-host\Shared Folders\Documents\DEV\sck-adc\simetrix files\8.00\LT1800\zuyev_1.4_LT1800 - dual slope adc.wxsch
*#SIMETRIX
.GRAPH CLK_pin_1 axisType="digital" persistence=-1 curveLabel="CLK" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH Vin curveLabel= Vin nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
X1 Vbias R3_P Vdd Vss X1_out LT1800 pinnames: inp inn vsp vsn out
X2 Vbias S1_N Vdd Vss S1_P LT1800 pinnames: inp inn vsp vsn out
X3 Vbias S1_P Vdd Vss cmp-out LT1800 pinnames: inp inn vsp vsn out
R1 S1_N X1_out 10k
R2 X1_out R3_P 200
R3 R3_P S2_P 200
R4 R4_P Vin 600
V6 Vdd 0 5
V7 Vss 0 0
V8 Vref 0 1.5
V9 Vbias 0 2.5
X$ARB1 Vin dac-out ARB1_OUT $$arbsourceARB1 pinnames: vin dac-out OUT 
.subckt $$arbsourceARB1 vin dac-out OUT 
B$OUT OUT 0 V=V(Vin)-V(dac-out) 
.ends
A$U10 DEINT S2_CP HC04D
X$V10 Vin 0 TRI_SOURCE pinnames: P N params: _V1=2.5 _V2=4.5 _FREQ=10 _DELAY=0 _DRATIOx100=50 _T_RISE=50m _T_FALL=50m _DAMP_COEF=0 _PWIDTH=0 _OFF_UNTIL_DELAY=0 _IDLE_IN_POP=0 _USEPHASE=0 _PHASE=0
A$U1 [CLK_pin_1] [BUS1#0 BUS1#1 BUS1#2 BUS1#3 BUS1#4 BUS1#5 BUS1#6 BUS1#7 DEINT RST] $$CounterU1 
.model $$CounterU1 d_logic_block file=$$counterU1 user=[10n]
.file $$counterU1 
PORT (DELAY=1e-12) output out[0:31] ; 
EDGE (CLOCK=in[0], DELAY=USER[0]) count ; 
count = count>=512? 0 : count+1 ; 
output=count ; 
.endf 

X$S1 S1_P S1_N RST 0 gen_switch : RON=1  ROFF=1Meg VON=3  VOFF=2  pinnames: P N CP CN
A$U2 [BUS1#0 BUS1#1 BUS1#2 BUS1#3 BUS1#4 BUS1#5 BUS1#6 BUS1#7 cmp-out] [BUS2#0 BUS2#1 BUS2#2 BUS2#3 BUS2#4 BUS2#5 BUS2#6 BUS2#7] $$RegisterU2 
.model $$RegisterU2 d_logic_block file=$$registerU2 user=[5n,20n] 
.file $$registerU2 
PORT datain in[0:7] ; 
PORT (DELAY=1e-12) dataout out[0:7] ; 
COMB (WIDTH=8, DELAY=USER[0]) datain_del ; 
EDGE (WIDTH=8, DELAY=USER[1], HOLD=USER[0], CLOCK=in[8]) Register ; 
datain_del = datain ; 
register = datain_del ; 
dataout = register ; 
.endf 

X$S2 S2_P R4_P S2_CP 0 gen_switch : RON=1  ROFF=1Meg VON=3  VOFF=2  pinnames: P N CP CN
X$S3 S2_P Vref DEINT 0 gen_switch : RON=1  ROFF=1Meg VON=3  VOFF=2  pinnames: P N CP CN
A$U7 [BUS2#0 BUS2#1 BUS2#2 BUS2#3 BUS2#4 BUS2#5 BUS2#6 BUS2#7] dac-out $$DACU7 
.model $$DACU7 DA_Converter 
+ output_slew_time=1e-007 
+ output_range=2 output_offset=3.5 

C2 S1_P S1_N 100n IC=0  BRANCH={IF(ANALYSIS=2,1,0)}
A$CLK CLK_pin_1 CLK$TP_DPULSE : Period=3.2u width=1.6u delay=0 
.model CLK$TP_DPULSE d_pulse period=1u min_sink=-0.02 max_source=0.02
.GRAPH dac-out axisType="auto" persistence=-1 curveLabel="dac-out" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH cmp-out axisType="digital" persistence=-1 curveLabel="cmp-out" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH S1_P axisType="auto" persistence=-1 curveLabel="int-out" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH ARB1_OUT axisType="grid" persistence=-1 curveLabel="Error" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH "ComposeDigital('BUS1', [-1, -1],  ''  , '%BUSNAME%#%WIRENUM%'  , [0.8, 0.9] )*1.0+0" complete=true  axistype=digital   bus=dec curveLabel="cnt-out" disabled=false 
.KEEP ^BUS1#*
.GRAPH RST axisType="digital" persistence=-1 curveLabel="RST" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH DEINT axisType="digital" persistence=-1 curveLabel="DEINT" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH "ComposeDigital('BUS2', [-1, -1],  ''  , '%BUSNAME%#%WIRENUM%'  , [0.8, 0.9] )*1.0+0" complete=true  axistype=digital   bus=dec curveLabel="adc-out" disabled=false 
.KEEP ^BUS2#*
.TRAN 100m
.OPTIONS minTimeStep=1f
+  conv=2
+  abstol=1n

